US05130311
Stage C: 1-[2-(4-Phenyl-1-Piperazinyl)Ethyl]-1H-Oxazolo[5,4-b]Pyridin-2-One
In a round-bottomed flask under an argon atmosphere, surmounted by a condenser, 2.43 g (15 mmol) of 1-phenylpiperazine and then 2.61 cm3 (15 mmol) of diiso-propylethylamine are added to a solution of 2.43 g (10 mmol) of 1-(2-bromoethyl)-1H-oxazolo [5,4-b]pyrdin-2-one in acetonitrile.

reactant | 1-phenylpiperazine | 15 mmol, 2.43 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | diiso-propylethylamine | 15 mmol, 2.61 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(2-bromoethyl)-1H-oxazolo [5,4-b]pyrdin-2-one | 10 mmol, 2.43 g | BrCCN1C(OC2=NC=CC=C21)=O | C8H7BrN2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[2-(4-Phenyl-1-Piperazinyl)Ethyl]-1H-Oxazolo[5,4-b]Pyridin-2-One | C1(=CC=CC=C1)N1CCN(CC1)CCN1C(OC2=NC=CC=C21)=O | C18H20N4O2
